US07179823B1
A mixture of [1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methanol (2.03 g), activated manganese dioxide (6.00 g), and tetrahydrofuran (50 ml) was stirred at room temperature overnight. After the manganese dioxide was removed by filtration, the filtrate was concentrated to obtain 1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carbaldehyde (1.74 g, yield: 86%) as colorless crystals. This was recrystallized from ethyl acetate-hexane. Melting point: 153˜154° C.

reactant | [1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methanol | 2.03 g | C1(=CC=CC=C1)C=1OC=C(N1)COC1=CC=C(CN2N=C(C(=C2)CO)C=2SC=CC2)C=C1 | C25H21N3O3S
catalyst | manganese dioxide | 6.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carbaldehyde | 1.74 g, yield: 86% | C1(=CC=CC=C1)C=1OC=C(N1)COC1=CC=C(CN2N=C(C(=C2)C=O)C=2SC=CC2)C=C1 | C25H19N3O3S
